US05122535
A method of synthesizing an indole derivative of the tryptamine type particularly melatonine, comprising the steps of 1) reacting potassium phthalimide and 1,3-di-bromopropane to obtain 3-bromopropylphthalimide; 2) reacting 3-bromopropylphthalimide with sodium acetoacetic ester in ethanol to obtain ethyl-2-acetyl-5-phthalimidopentanoate; 3) reacting the product from step 2) with diazo-p-anisidine to obtain 2-carboxyethyl-3-(2-phthalimidoethyl)-5-methoxy-indole; 4) reacting the 2-carboxyethyl-3-(2-phthalimidoethyl)-5-methoxy-indole with 2N/NaOH and then 20% H2SO4 to obtain impure 5-methoxytriptamine, which is purified by means of hexamethyldisilazane. The mono and disubstituted derivatives are obtained and the monosubstituted derivative is hydrolyzed with aqueous methanol and then recrystallized from ethanol. The N-acetyl derivative is prepared by reaction with acetic anhydride. Melatonine of high purity is obtained for prophylaxy and also against AIDS (Acquired Immuno Deficiency Syndrome).

reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | tryptamine | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | melatonine | CC(=O)NCCC1=CNC2=C1C=C(C=C2)OC | C13H16N2O2
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1,3-di-bromopropane | BrCCCBr | C3H6Br2
product | 3-bromopropylphthalimide | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
